US04690944
2-[[N-(tetrahydro-2-oxo-3-thienyl)amino]carbonyl]benzoic acid (II)
According to the same procedure, 10 g (65 mmol) of DL-homocysteine thiolactone hydrochloride, 11.52 g (63 mmol) of DL-camphoric anhydride and 5.46 g (65 mmol) of NaHCO3 in 42 ml of CH2Cl2 and 1 ml of H2O were reacted.

reactant | DL-homocysteine thiolactone hydrochloride | 65 mmol, 10 g | C1CSC(=O)C1N.Cl
reactant | DL-camphoric anhydride | 63 mmol, 11.52 g | CC1(C2CCC1(C(=O)OC2=O)C)C | C10H14O3
reactant | NaHCO3 | 65 mmol, 5.46 g | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 42 ml | C(Cl)Cl | CH2Cl2
solvent | H2O | 1 ml | O | H2O
product | 2-[[N-(tetrahydro-2-oxo-3-thienyl)amino]carbonyl]benzoic acid | O=C1SCCC1NC(=O)C1=C(C(=O)O)C=CC=C1 | C12H11NO4S
